* Z:\home\zmann\git\SmartHome\Relais_Plug_Switch.asc
V1 N005 0 PULSE(0 3.3 0 0 0 0.5 1)
S1 0 N002 N001 N004 MYSW
V2 N003 0 SINE(0 220 50 0 0 0)
R1 N003 N002 1k
V3 N001 0 5V
Q1 N004 N006 0 0 BC550C
R4 N001 N004 126
R6 N006 N005 10k
R2 N006 0 15k
.model NPN NPN
.model PNP PNP
.lib C:\users\zmann\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 2
.model MYSW SW(Ron=1 Roff=2Meg Vt=3.5 Vh=.5)
.inc europe.lib
.backanno
.end
